US07589072B2
N,N-Di-Boc-N′-trifluoromethanesulfonylguanidine
N,N-Bis-Boc-guanidine obtained in Preparation Example 10 (6.05 g, 23 mmol) was dissolved in CH2Cl2 (40 ml), triethylamine (4.8 ml, 34.5 mmol) was added thereto. Triflic anhydride (3.9 ml, 25.3 mmol) was added dropwise to the mixture with a syringe at −78° C. and warmed to room temperature over 4 hours followed by stirring at room temperature for 3 hours. The resulting solution was washed with 2N H2SO4 and water, dried over Na2SO4 and concentrated. The concentrate was purified using column chromatography (CH2Cl2), crystallized from hexane to obtain the title compound (7.09 g) as a white solid.

reactant | N,N-Bis-Boc-guanidine | C(=O)(OC(C)(C)C)N(C(=N)N)C(=O)OC(C)(C)C | C11H21N3O4
reactant | triethylamine | 34.5 mmol, 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 25.3 mmol, 3.9 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | N,N-Di-Boc-N′-trifluoromethanesulfonylguanidine | 7.09 g | C(=O)(OC(C)(C)C)N(C(=N)NS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C12H20F3N3O6S
